US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and allyl chloroformate, there is obtained ethyl N-allyloxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 76°-77.5° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | allyl chloroformate | ClC(=O)OCC=C | C4H5ClO2
product | ethyl N-allyloxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C=C)OC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C21H22N2O3
